US08048680B2
3-Acrylamido-phenylboronic acid (“3-APB”) was synthesized by reacting 3-amino phenylboronic acid with an excess of acryloyl chloride in an aqueous alkaline solution. The product was extracted in acetone and dried using a rotary evaporator. The structure of 3-APB was confirmed using NMR. The purity was about 90%, TLC showing very little contamination.

reactant | 3-amino phenylboronic acid | NC=1C=C(C=CC1)B(O)O | C6H8BNO2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 3-Acrylamido-phenylboronic acid | C(C=C)(=O)NC=1C=C(C=CC1)B(O)O | C9H10BNO3
